US06479487B1
Scheme C, step b: 1-(4-Chlorobenzyl)-4-piperidone oxime
Dissolve 1-(4-chlorobenzyl)-4-piperidone (0.0456 mmol), hydroxylamine hydrochloride (0.0456 mmol) and sodium acetate (0.0456 mmol) in aqueous ethanol (450 mL). Stir approximately 30 minutes to 2 hours while warming. Add methylene chloride (450 mL), separate the organic phase, and extract the aqueous phase with methylene chloride (100 mL). Combine the organic phases and dry (MgSO4). Evaporate the solvent in vacuo to give the title compound.

reactant | 1-(4-chlorobenzyl)-4-piperidone | 0.0456 mmol | ClC1=CC=C(CN2CCC(CC2)=O)C=C1 | C12H14ClNO
reactant | hydroxylamine hydrochloride | 0.0456 mmol | Cl.NO
reactant | sodium acetate | 0.0456 mmol | C(C)(=O)[O-].[Na+]
solvent | ethanol | 450 mL | C(C)O | C2H6O
product | 1-(4-Chlorobenzyl)-4-piperidone oxime | ClC1=CC=C(CN2CCC(CC2)=NO)C=C1 | C12H15ClN2O
